US07378417B2
7-Difluoromethyl-5-(3-methyl-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(morpholine-4-sulfonyl)-phenyl]-amide
The title compound was prepared from 7-difluoromethyl-5-(3-methyl-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.5) and 3-(morpholine-4-sulfonyl)-phenylamine [CAS 22184-97-0; commercially available] according to general procedure II. Yellow solid. MS (ISP) 595.2 [(M+H)+]; mp 261° C.

reactant | 7-difluoromethyl-5-(3-methyl-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC(=C(C=C2)C(F)(F)F)C)F | C16H10F5N3O2
reactant | 3-(morpholine-4-sulfonyl)-phenylamine | N1(CCOCC1)S(=O)(=O)C=1C=C(C=CC1)N | C10H14N2O3S
product | 7-Difluoromethyl-5-(3-methyl-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(morpholine-4-sulfonyl)-phenyl]-amide | N1(CCOCC1)S(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC(=C(C=C2)C(F)(F)F)C | C26H22F5N5O4S
